US07754729B2
Intermediate 3b: 2-(1-(2-methoxyethyl)piperidin-4-ylidene)acetic acid
The title compound was prepared following the procedure for the preparation of intermediate 3a except that methyl 2-(1-(2-methoxyethyl)piperidin-4-ylidene)acetate was substituted for tert-butyl 4-((methoxycarbonyl)methylene)piperidine-1-carboxylate.

reactant | methyl 2-(1-(2-methoxyethyl)piperidin-4-ylidene)acetate | COCCN1CCC(CC1)=CC(=O)OC | C11H19NO3
reactant | tert-butyl 4-((methoxycarbonyl)methylene)piperidine-1-carboxylate | COC(=O)C=C1CCN(CC1)C(=O)OC(C)(C)C | C13H21NO4
product | 2-(1-(2-methoxyethyl)piperidin-4-ylidene)acetic acid | COCCN1CCC(CC1)=CC(=O)O | C10H17NO3
